* D:\Repository\CEE\RedresseurLC.asc
D1 v W RFUH30TS6S
D2 0 W RFUH30TS6S
D3 u- v RFUH30TS6S
L W u+ 200m
C u+ u- 4m
R u+ u- 5
V v 0 SINE(0 10 50)
D4 u- 0 RFUH30TS6S
.model D D
.lib C:\Users\titof\OneDrive\Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 0 1080m 1000m 100u
.backanno
.end
